US04956372
8-Nitro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1,2-dione
To a stirred fuming nitric acid (20 ml) at 0° C. was added 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1,2-dione (5 g) portionwise. The reaction mixture was stirred for additional one hour, poured into ice water and the resultant precipitate was collected by filtration. This precipitate was washed with water and dried to yield the title compound. The compound was recrystallized from ethanol-hexane to give 3.8 g (61%) as yellow needles, mp 198°-199° C.

reactant | 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1,2-dione | 5 g | C1(C(N2CCCC3=CC=CC1=C23)=O)=O | C11H9NO2
reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
product | 8-Nitro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1,2-dione | [N+](=O)([O-])C=1C=C2CCCN3C2=C(C1)C(C3=O)=O | C11H8N2O4
